US06762198B2
2-[(4′-Trifluoromethyl[1,1′-biphenyl]-4-yl)sulfonyl]amino-4-hydroxy-5-[2-thiazolylthio]-pentanoic Acid
2-[(4′-Trifluoromethyl[1,1′-biphenyl]-4-yl)sulfonyl]amino-4-hydroxy-5-[2-benzothiazolylthio]-pentanoic acid: To a solution of 3-[(4′-trifluoromethyl[1,1′-biphenyl]-4-yl)sulfonyl]amino-[2-oxo-5-(thiazol-2-yl)thio]methyl]-tetrahydrofuran 14c (1.13 g, 2.2 mmol) in water (5 mL) and THF (5 mL) is slowly added lithium hydroxide (0.53 g, 22 mmol). The reaction is stirred for 2 hr, then concentrated to dryness. The reaction mixture is diluted with water and then the mixture is extracted with ethyl ether (2×25 mL) The ethyl ether layer is discarded and the aqueous layer is slowly acidified with 1N HCl to pH 5, and then extracted 3 times with ethyl acetate. The combined ethyl acetate layers are washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The solid is purified by prep HPLC to give the desired white solid product.

reactant | 2-[(4′-Trifluoromethyl[1,1′-biphenyl]-4-yl)sulfonyl]amino-4-hydroxy-5-[2-benzothiazolylthio]-pentanoic acid | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC(CSC=1SC2=C(N1)C=CC=C2)O)(F)F | C25H21F3N2O5S3
reactant | lithium hydroxide | 22 mmol, 0.53 g | [OH-].[Li+]
solvent | water | 5 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 2.2 mmol, 1.13 g | O1CCCC1 | C4H8O
product | 2-[(4′-Trifluoromethyl[1,1′-biphenyl]-4-yl)sulfonyl]amino-4-hydroxy-5-[2-thiazolylthio]-pentanoic Acid | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC(CSC=1SC=CN1)O)(F)F | C21H19F3N2O5S3
